US06066639
To a mixture of activated manganese dioxide (5.66 g, 65 mmol), sodium cyanide (833 mg, 17 mmol), and glacial acetic acid (300 mg) in methanol (70 mL) was added 2-iodo-4-formyl-1-triphenylmethylimidazole (2.33 g, 5.0 mmol) in one portion. The mixture was stirred for 1 hour at room temperature and then filtered through Celite. The filtrate was concentrated and the residue was partitioned into methylene chloride and water. The organic phase was dried (magnesium sulfate) and concentrated in vacuo to give a white foamy solid. Purification by column chromatography using ethyl acetate:hexanes (1:2) afforded 2-iodo-4-(methoxycarbonyl)-1-triphenylmethylimidazole (2.26 g, 92%) as a white solid, mp 192-194° C. 1H NMR (CDCl3) δ 7.55 (s, 1H), 7.37-7.29 (m, 9H), 7.18-7.09 (m, 6H), 3.84 (s, 3H).

reactant | sodium cyanide | 17 mmol, 833 mg | [C-]#N.[Na+]
reactant | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
reactant | 2-iodo-4-formyl-1-triphenylmethylimidazole | 5.0 mmol, 2.33 g | IC=1N(C=C(N1)C=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17IN2O
solvent | methanol | 70 mL | CO | CH4O
catalyst | manganese dioxide | 65 mmol, 5.66 g | [O-2].[O-2].[Mn+4]
product | 2-iodo-4-(methoxycarbonyl)-1-triphenylmethylimidazole | 2.26 g, 92% | IC=1N(C=C(N1)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19IN2O2
